US08466166B2
STEP 4: 1-[1-(2,4-Difluorophenyl)vinyl]pyrrolidine
To a solution of 1-(2,4-difluorophenyl)ethanone (10.0 g, 64.0 mmol) and pyrrolidine (32.1 mL, 384 mmol) in hexane (150 mL) was added titanium tetrachloride (3.86 mL, 35.2 mmol) dropwise at 0° C. over 15 minutes. The reaction mixture was stirred at room temperature for 24 hours and filtered. The filtrate was evaporated in vacuo to give pale yellow oil, which was distilled under reduced pressure (0.3 mmHg, 90-120° C.) to give the title compound as a pale yellow oil (4.90 g, 36%).

reactant | 1-(2,4-difluorophenyl)ethanone | 64.0 mmol, 10.0 g | FC1=C(C=CC(=C1)F)C(C)=O | C8H6F2O
reactant | pyrrolidine | 384 mmol, 32.1 mL | N1CCCC1 | C4H9N
solvent | hexane | 150 mL | CCCCCC | C6H14
catalyst | titanium tetrachloride | 35.2 mmol, 3.86 mL | [Ti](Cl)(Cl)(Cl)Cl
product | 1-[1-(2,4-Difluorophenyl)vinyl]pyrrolidine | 4.90 g, 36% | FC1=C(C=CC(=C1)F)C(=C)N1CCCC1 | C12H13F2N
